US04767743
E3. methyl 3-(R)-methyl-5-(t-butyldimethylsilyloxy)pentanoate
To a solution of 37 g. (0.253 m) of methyl 3-(R)-methyl-5-hydroxypentanoate and 37 g. (0.543 m) of imidazole in 500 ml. of dimethylformamide was added 37 g. (0.249 m) of t-butyldimethylsilyl chloride and the reaction stirred at room temperature for 2 hours. The reaction mixture was poured into water and extracted (4×100 ml.) with ether. The combined extracts were washed with 10% hydrochloric acid, a saturated sodium bicarbonate solution, water and a brine solution, and dried over magnesium sulfate. Removal of the solvent gave 121.88 g. of crude product which, on distillation, gave 107.12 g. of pure product, b.p. 80°-81° C./0.4 torr.

reactant | methyl 3-(R)-methyl-5-hydroxypentanoate | C[C@@H](CC(=O)OC)CCO | C7H14O3
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | t-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | water | O | H2O
product | methyl 3-(R)-methyl-5-(t-butyldimethylsilyloxy)pentanoate | C[C@@H](CC(=O)OC)CCO[Si](C)(C)C(C)(C)C | C13H28O3Si
